US07429607B2
Synthesis of 2-dimethylamino-4-(naphth-1-yl)oxazole (8)
1-(α-Bromoacetyl)naphthalene (5 g) and 1,1-dimethylurea (6 g) were stirred in anhydrous dimethylformamide (20 ml) at 105° C. overnight. The mixture was cooled, added to ethyl acetate, washed with sodium bicarbonate solution, water, brine, dried with sodium sulphate, filtered and evaporated in vacuo. The title compound was obtained (0.60 g; m.p. 30-32° C.) following silica gel column chromatography of the residue in dichloromethane.

reactant | 1-(α-Bromoacetyl)naphthalene | 5 g | BrCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9BrO
reactant | 1,1-dimethylurea | 6 g | CN(C(=O)N)C | C3H8N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-dimethylamino-4-(naphth-1-yl)oxazole | CN(C=1OC=C(N1)C1=CC=CC2=CC=CC=C12)C | C15H14N2O
